### PR TITLE
[Merged by Bors] - refactor(AlgebraicTopology/SimplicialSet): use the Subpresheaf API

### PR DESCRIPTION
**Pull request by joelriou**
Some new API is introduced for subcomplexes of the standard simplex: any `S : Finset (Fin (n + 1))` defines a subcomplex `face S` of `Δ[n]`, and this face is isomorphic to `Δ[m]` when `Fin (m + 1) ≃o S`. Then, boundaries and horns are redefined as subcomplexes of the standard simplex and it is shown that they are unions of certain codimension one faces of the standard simplex.

- [x] depends on: #21543
- [x] depends on: #21540
- [x] depends on: #21542
- [x] depends on: #21303
- [x] depends on: #21047
- [x] depends on: #20840
- [x] depends on: #21096 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/Quasicategory/StrictSegal.lean [hunk 1]
```diff
@@ -39,64 +39,54 @@ instance quasicategory {X : SSet.{u}} [StrictSegal X] : Quasicategory X := by
...
-    /- The interval spanning from `k` to `k + 2` is equivalently the spine
-    of the triangle with vertices `k`, `k + 1`, and `k + 2`. -/
-    have hi : ((horn.spineId i h₀ hₙ).map σ₀).interval k 2 (by omega) =
-        X.spine 2 (σ₀.app _ triangle) := by
-      ext m
-      dsimp [spine_arrow, Path.interval, Path.map]
-      rw [← types_comp_apply (σ₀.app _) (X.map _), ← σ₀.naturality]
+    · /- We construct the triangle in the standard simplex as a 2-simplex in
+      the horn. While the triangle is not contained in the inner horn `Λ[2, 1]`,
+      we can inhabit `Λ[n + 3, i] _[2]` by induction on `n`. -/
```
Comment (gio256) [inline Mathlib/AlgebraicTopology/Quasicategory/StrictSegal.lean:63]:
```suggestion
      it suffices to inhabit `Λ[n + 3, i] _[2]`. -/
```
It appears the rather awkward induction argument is no longer needed, so this removes all mention of it.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/Quasicategory/StrictSegal.lean]: Thanks!

File: Mathlib/AlgebraicTopology/SimplicialSet/Horn.lean [hunk 2]
```diff
@@ -14,70 +15,112 @@ This file introduce horns `Λ[n, i]`.
...
+lemma face_le_subcomplexHorn {n : ℕ} (i j : Fin (n + 1)) (h : i ≠ j) :
+    stdSimplex.face.{u} {i}ᶜ ≤ subcomplexHorn n j := by
+  rw [subcomplexHorn_eq_iSup]
+  exact le_iSup (fun (k : ({j}ᶜ : Set (Fin (n + 1)))) ↦ stdSimplex.face.{u} {k.1}ᶜ) ⟨i, h⟩
+
+@[simp]
+lemma subcomplexHorn_obj_zero (n : ℕ) (i : Fin (n + 3)) :
+    (subcomplexHorn.{u} (n + 2) i).obj (op (.mk 0)) = ⊤ := by
+  ext j
+  -- this was produced using `simp? [subcomplexHorn_eq_iSup] says`
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Horn.lean:54]:
```suggestion
  -- this was produced using `simp? [subcomplexHorn_eq_iSup]`
```

**Comment by emilyriehl** [comment]
What explains the reason you need to annotate various simplicial sets as belonging to the type `SSet.{u}`? Is this to coerce a subcomplex of a simplex to a standard simplicial set?

File: Mathlib/AlgebraicTopology/SimplicialSet/Horn.lean [hunk 3]
```diff
@@ -14,70 +15,112 @@ This file introduce horns `Λ[n, i]`.
...
-  obj m := { α : Δ[n].obj m // Set.range (asOrderHom α) ∪ {i} ≠ Set.univ }
-  map {m₁ m₂} f α :=
-    ⟨Δ[n].map f α.1, by
-      intro h; apply α.property
-      rw [Set.eq_univ_iff_forall] at h ⊢; intro j
-      apply Or.imp _ id (h j)
-      intro hj
-      exact Set.range_comp_subset_range _ _ hj⟩
+@[simps (config := .lemmasOnly)]
+def subcomplexHorn (n : ℕ) (i : Fin (n + 1)) : (Δ[n] : SSet.{u}).Subcomplex where
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/AlgebraicTopology/SimplicialSet/Horn.lean:27]: How about keeping the old name `horn`?
Anyway, if you decide to stick with the new name, then please update it in the docstring.

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge
